US05122537
1-(2-methoxynaphth-1-yl)-2-nitroethene (X, (A), R=CH3, R2 =H, n=1)
A mixture of 2-methoxy-1-naphthaldehyde (1862 mg, 10 mmol) and nitromethane (610 mg, 10 mmol) in methanol (200 ml) is stirred at room temperature until the solids dissolved. The solution is cooled to about 0° C. and a 30% NaOH solution (2 ml, 20 mmol) is added dropwise over 30 min. The resulting solution is added slowly at 60° C. to a 35% HCl solution (200 ml). The amorphous solid that formed is filtered and washed with water. The crude product is recrystallized from ethanol to give pure title compound in 80% yield (1835 mg).

reactant | 2-methoxy-1-naphthaldehyde | 10 mmol, 1862 mg | COC1=C(C2=CC=CC=C2C=C1)C=O | C12H10O2
reactant | nitromethane | 10 mmol, 610 mg | [N+](=O)([O-])C | CH3NO2
reactant | NaOH | 20 mmol, 2 ml | [OH-].[Na+]
reactant | HCl | 200 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 1-(2-methoxynaphth-1-yl)-2-nitroethene | 80% yield | COC1=C(C2=CC=CC=C2C=C1)C=C[N+](=O)[O-] | C13H11NO3
